US09233956B2
Step A: N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide
Following a procedure analogous to the procedure described in Intermediate 14 using 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline (3 g, 8.6 mmol) and pyridine-3-sulfonyl chloride (1.68 g, 9.5 mmol) the title compound of Step A was obtained (2.1 g, 75.3% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.97-9.01 (br, 1H), 8.76-8.79 (m, 1H), 8.35 (d, J=5.3 Hz, 1H), 8.08-8.12 (m, 1H), 7.68-7.74 (m, 1H), 7.40-7.44 (m, 1H), 7.22-7.34 (m, 3H), 6.69 (d, J=5.3 Hz, 1H), 3.29-3.38 (m, 1H), 1.44 (d, J=6.8 Hz, 6H). MS (ES+): 490 [M+H]+.

reactant | 3-(5-(2-chloropyrimidin-4-yl)-2-isopropylthiazol-4-yl)-2-fluoroaniline | 8.6 mmol, 3 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(N)C=CC1)F | C16H14ClFN4S
reactant | pyridine-3-sulfonyl chloride | 9.5 mmol, 1.68 g | N1=CC(=CC=C1)S(=O)(=O)Cl | C5H4ClNO2S
product | N-{3-[5-(2-Chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-pyridinesulfonamide | 75.3% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C=1C=NC=CC1)F | C21H17ClFN5O2S2
